US07687664B2
t-Butyl N-(2-bromo-5-methoxybenzyl)carbamate
3-Methoxybenzylamine (23 g) was dissolved in 150 ml of tetrahydrofuran, and a solution of 32 g of t-butyl dicarbonate in tetrahydrofuran (50 ml) was added thereto. The mixture was stirred at room temperature for 1 hour, and then the solvent was evaporated. The residue was dissolved in ethyl acetate and successively washed with 1N hydrochloric acid and brine. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated to give t-butyl N-(3-methoxybenzyl)carbamate. The resulting t-butyl N-(3-methoxybenzyl)carbamate was then dissolved in 250 ml of acetonitrile, 30 g of N-bromosuccinimide was added thereto under ice-cooling, the mixture was stirred at room temperature for 3 hours, and then the solvent was evaporated. The residue was dissolved in ethyl acetate and washed with water and then with brine. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated. The residue was purified by a silica gel column, to give 36 g of the title compound in the 2:1 hexane-diethyl ether fraction.

reactant | t-butyl N-(3-methoxybenzyl)carbamate | COC=1C=C(CNC(OC(C)(C)C)=O)C=CC1 | C13H19NO3
reactant | N-bromosuccinimide | 30 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | t-Butyl N-(2-bromo-5-methoxybenzyl)carbamate | 36 g | BrC1=C(CNC(OC(C)(C)C)=O)C=C(C=C1)OC | C13H18BrNO3
